US06969725B2
In analogy to the procedure described in example 1 f], (2S)-2-ethoxy-3-(4-hydroxy-2-trifluoromethyl-phenyl)-propionic acid methyl ester (example 21 f]) was reacted with with 4-chloromethyl-2-(2-fluoro-phenyl)-5-methyl-oxazole (prepared from 2-fluoro-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 5 a] and 2 b]) in the presence of cesium carbonate and potassium iodide to yield (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid methyl ester as colorless solid.

reactant | (2S)-2-ethoxy-3-(4-hydroxy-2-trifluoromethyl-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)C(F)(F)F)OCC)=O | C13H15F3O4
reactant | 4-chloromethyl-2-(2-fluoro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)F | C11H9ClFNO
reactant | 2-fluoro-benzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-2-ethoxy-3-{4-[2-(2-fluoro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-trifluoromethyl-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)F)C(F)(F)F)OCC)=O | C24H23F4NO5
